* C:\Users\techw\Documents\Baja SAE\GitHub\not-code\LTspice\Strain Amplification Circuit\WheatstoneAndAmplifier - B.asc
V1 3.3V 0 3.3
V2 5V 0 10
R1 N001 N002 R={350-(0.7084*sin(10*time))}
R2 N001 N003 R={350+(0.7084*sin(10*time))}
R3 N002 0 R={350+(0.7084*sin(10*time))}
R4 N003 0 R={350-(0.7084*sin(10*time))}
R12 3.3V Offset 1644.43 tol=5 pwr=.5
R13 Offset 0 5.566 tol=5 pwr=.5
V3 0 -5V 0
XU1 N005 N004 5V -5V Vout LF356
R6 N004 N003 100k tol=5 pwr=.5
R7 N005 N002 100k tol=5 pwr=.5
R8 Vout N004 14116.31846k tol=5 pwr=.5
R9 N005 0 14116.31846k tol=5 pwr=.5
V4 N001 0 5
.tran 0 4 0 0.00001
.lib LF356.sub
.backanno
.end
